US04772600
N-Methyl-2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A solution of 2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0183 mole) and 1,1'-carbonyldiimidazole (2.97 g, 0.0183 mole) in tetrahydrofuran (100 ml) was stirred at room temperature for 33/4 hours with a stream of nitrogen bubbling through it. A solution of methylamine (36 ml of a 3.03M solution in tetrahydrofuran, 0.1098 mole) was added and the reaction mixture was stirred at room temperature overnight under nitrogen. The solvents were removed under reduced pressure and the resulting solid was triturated in water (100 ml), collected by filtration, and rinsed twice with water, twice with a 5% potassium hydroxide solution, and twice again with water. The solid was dissolved in hot isopropyl alcohol, and filtered while hot. Addition of isopropyl ether caused solid to precipitate. The solid was collected by filtration, rinsed with isopropyl ether, and dried under high vacuum at room temperature overnight to give 3.12 g (60%) of title compound, mp 213°-216° C.

reactant | 2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0183 mole, 5.0 g | CC1=CC=C(S1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C13H11N3O2S
reactant | 1,1'-carbonyldiimidazole | 0.0183 mole, 2.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Methyl-2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.12 g, 60% | CNC(CN1C(=NC=2C1=NC=CC2)C=2SC(=CC2)C)=O | C14H14N4OS
